US08110585B2
methyl 3-amino-2-(benzylthio)benzoate
Under hydrogen atmosphere, a mixture of methyl 2-(benzylthio)-3-nitrobenzoate (28.5 g, 94.0 mmol) and a catalytic amount of Raney nickel in ethyl acetate (500 mL) was stirred at room temperature for 12 hr, and filtered through celite. The solvent was evaporated under reduced pressure to give the title compound (25.7 g, yield 96%).

reactant | methyl 2-(benzylthio)-3-nitrobenzoate | 94.0 mmol, 28.5 g | C(C1=CC=CC=C1)SC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C15H13NO4S
catalyst | Raney nickel | [Ni] | Ni
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | methyl 3-amino-2-(benzylthio)benzoate | 25.7 g, yield 96% | NC=1C(=C(C(=O)OC)C=CC1)SCC1=CC=CC=C1 | C15H15NO2S
